US07868014B2
Stir a mixture of 6-oxa-3-aza-bicyclo[3.1.0]hexane-3-carboxylic acid tert-butyl ester (100 mg, 0.54 mmol) and triethylamine trihydrofluoride (88 μL, 0.54 mmol) at 100° C. for 30 min in a microwave (CEM Discover, 300W). Add saturated aqueous sodium hydrogen carbonate and extract with chloroform. Combine the organic layers and wash with saturated aqueous sodium chloride, dry (magnesium sulfate) and concentrate to give trans-3-fluoro-4-hydroxypyrrolidine-1-carboxylic acid tert-butyl ester which may be used without further purification. 1H NMR (300 MHz, CDCl3) δ 4.85 (1H, d, J=50.86 Hz), 4.29 (1H, dd, J=8.01, 2.92 Hz), 3.38-3.65 (4H, m), 1.39 (9H, s).

reactant | 6-oxa-3-aza-bicyclo[3.1.0]hexane-3-carboxylic acid tert-butyl ester | 0.54 mmol, 100 mg | C(C)(C)(C)OC(=O)N1CC2OC2C1 | C9H15NO3
reactant | triethylamine trihydrofluoride | 0.54 mmol, 88 μL | F.F.F.C(C)N(CC)CC
product | trans-3-fluoro-4-hydroxypyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)O)F | C9H16FNO3
